US07750003B2
Tert-butyl (4-{4-[(isopropylsulfonyl)methyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl}phenyl)carbamate
(3S)-4-{2-Chloro-6-[(isopropylsulfonyl)methyl]pyrimidin-4-yl}-3-methylmorpholine (2.0 g, 5.99 mmol) was dissolved in a solution of 18% DMF in a mixture of 7:3:2 dimethoxyethane:water:ethanol (16 mL). {4-[(Tert-butoxycarbonyl)amino]phenyl}boronic acid (2.13 g, 8.99 mmol), 2M sodium carbonate solution (8 mL) and dichlorobis(triphenylphosphine) palladium catalyst (211 mg, 0.30 mmol) were then added and the reaction refluxed at 90° C. for 2 hours under a nitrogen atmosphere. The reaction was allowed to cool to room temp then partitioned between ethyl acetate (20 mL) and water (20 mL). The organics were dried over magnesium sulphate, filtered and concentrated in vacuo. The cream solid obtained was chromatographed on silica, eluting with 0-50% ethyl acetate in DCM, to give the desired material as a brown solid (3.2 g).

reactant | (3S)-4-{2-Chloro-6-[(isopropylsulfonyl)methyl]pyrimidin-4-yl}-3-methylmorpholine | 5.99 mmol, 2.0 g | ClC1=NC(=CC(=N1)N1[C@H](COCC1)C)CS(=O)(=O)C(C)C | C13H20ClN3O3S
reactant | water | O | H2O
reactant | {4-[(Tert-butoxycarbonyl)amino]phenyl}boronic acid | 8.99 mmol, 2.13 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)B(O)O | C11H16BNO4
reactant | sodium carbonate | 2M, 8 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | dimethoxyethane | C(OC)COC | C4H10O2
solvent | ethanol | 16 mL | C(C)O | C2H6O
product | Tert-butyl (4-{4-[(isopropylsulfonyl)methyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl}phenyl)carbamate | 3.2 g | C(C)(C)S(=O)(=O)CC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(OC(C)(C)C)=O | C24H34N4O5S
